US05925667
1-ethyl-2-(2,4-digeranyloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 2,4-digeranyloxybenzoic acid (2.13 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.7 ml), thereby yielding 2.03 g (76%) of the aimed compound.

reactant | 2,4-digeranyloxybenzoic acid | 2.13 g | C(\C=C(/C)\CCC=C(C)C)OC1=C(C(=O)O)C=CC(=C1)OC\C=C(/C)\CCC=C(C)C | C27H38O4
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(2,4-digeranyloxybenzoylaminomethyl)pyrrolidine | 2.03 g, 76% | C(C)N1C(CCC1)CNC(C1=C(C=C(C=C1)OC\C=C(/C)\CCC=C(C)C)OC\C=C(/C)\CCC=C(C)C)=O | C34H52N2O3
